US09353107B2
Step-ii: 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (1.12 g, 1.544 mmol) was deprotected in TFA/DCM (10/5 ml). This afforded 600 mg (64.8% yield) of the titled compound. MS: m/z=625.8 (M+1).

reactant | tert-butyl 4-(5-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 1.544 mmol, 1.12 g | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=NC3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C38H37F2N7O4S
solvent | TFA DCM | 5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(1-(3,5-difluorobenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 600 mg, 64.8% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C33H29F2N7O2S
